US05969140
A mixture of 1-(2-hydrazino-4-pyridyl)-2,3-bis(hydroxymethyl)-6,7-dimethoxynaphthalene (2.0 g) and acetic acid (20 ml) is stirred at room temperature for 96 hours. After the reaction is complete, to the mixture are added methylene chloride and an aqueous potassium carbonate solution. The methylene chloride layer is separated, concentrated under reduced pressure, and the residue is crystallized from chloroform to give 1-[2-(2-acetylhydrazino)pyridin-4-yl]-2,3-bis(hydroxymethyl)-6,7-dimethoxynaphthalene (0.84 g), which is listed in Table 10.

reactant | 1-(2-hydrazino-4-pyridyl)-2,3-bis(hydroxymethyl)-6,7-dimethoxynaphthalene | 2.0 g | N(N)C1=NC=CC(=C1)C1=C(C(=CC2=CC(=C(C=C12)OC)OC)CO)CO | C19H21N3O4
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-[2-(2-acetylhydrazino)pyridin-4-yl]-2,3-bis(hydroxymethyl)-6,7-dimethoxynaphthalene | 0.84 g | C(C)(=O)NNC1=NC=CC(=C1)C1=C(C(=CC2=CC(=C(C=C12)OC)OC)CO)CO | C21H23N3O5
